US04847268
8-(4-n-Butoxyphenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride
0.72 g (24 mmol) of sodium hydride were added to a solution of 5.15 g (20 mmol) of 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline in 26 ml of dimethylformamide under nitrogen. When effervescence had ceased, 3.29 g (24 mmol) of n-bromobutane were added dropwise with ice-cooling. After stirring at room temperature overnight, the mixture was poured into ice-cold water and extracted with ether to obtain a brown oil. A solution of the oil in ether was treated with ethereal hydrogen chloride to precipitate 4.89 g (70%) of 8-(4-n-butoxyphhenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride as pale yellow crystals (from ethanol-ether).

reactant | sodium hydride | 24 mmol, 0.72 g | [H-].[Na+]
reactant | 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline | 20 mmol, 5.15 g | OC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | C15H15NOS
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 8-(4-n-Butoxyphenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride | Cl.C(CCC)OC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | InChI=1S/C19H23NOS.ClH/c1-2-3-14-21-16-9-11-17(12-10-16)22-18-8-4-6-15-7-5-13-20-19(15)18;/h5,7,9-13,18H,2-4,6,8,14H2,1H3;1H
